US07176231B2
1,5-diacetyl-3-(ethoxy-phenyl-methylidene)-2-indolinone
32.6 g (150 mmol) 1,5-diacetyl-2-indolinone are suspended in 100 ml triethyl orthobenzoate and stirred overnight with 150 ml acetic anhydride at 110° C. Then a further 50 ml triethyl orthobenzoate are added and the mixture is stirred for a further 24 h. Then it is evaporated down and the resulting precipitate is suction filtered, washed and dried.

reactant | 1,5-diacetyl-2-indolinone | 150 mmol, 32.6 g | C(C)(=O)N1C(CC2=CC(=CC=C12)C(C)=O)=O | C12H11NO3
reactant | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethyl orthobenzoate | 100 ml | CCOC(C1=CC=CC=C1)(OCC)OCC | C13H20O3
solvent | triethyl orthobenzoate | 50 ml | CCOC(C1=CC=CC=C1)(OCC)OCC | C13H20O3
product | 1,5-diacetyl-3-(ethoxy-phenyl-methylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(C1=CC=CC=C1)OCC)=O | C21H19NO4
